US04954164
A mixture of 10 g of ethyl 5-hydroxy-1-methyl-4-pyrazole carboxylate and 50 ml of phosphorus oxychloride was stirred at 90° to 100° C. for 65 hours. Excessive phosphorus oxychloride was evaporated under reduced pressure, and the residue was poured into ice-water. The precipitated crystals were filtered and dried to obtain 4.5 g of 5-chloro-1-methyl-4-pyrazole carboxylic acid. The filtrate was neutralized with aqueous ammonia (28%) and extracted with ether. After drying of the extract, evaporation of the solvent gave 4.0 g of ethyl 5-chloro-1-methyl-4-pyrazole carboxylate. To 5-chloro-1-methyl-4-pyrazole carboxylic acid were added 30 ml of thionyl chloride and 0.2 ml of dimethylformamide, and the mixture was refluxed for 5 hours. Then, excessive thionyl chloride was evaporated and the residue was added to dry ethanol. After stirring at room temperature for 3 hours, the solvent was evaporated and ether was added to the residue. After washing with water, drying and evaporation of the solvent, there was obtained 4.5 g of ethyl 5-chloro-1-methyl-4-pyrazole carboxylate as an oil. Total of the title compound: 8.5 g.

reactant | ethyl 5-hydroxy-1-methyl-4-pyrazole carboxylate | 10 g | OC1=C(C=NN1C)C(=O)OCC | C7H10N2O3
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-1-methyl-4-pyrazole carboxylic acid | 4.5 g | ClC1=C(C=NN1C)C(=O)O | C5H5ClN2O2
